US07189716B2
4-Iodo-2-methoxy-nicotinic acid:
To a solution of 4-iodo-2-methoxy-pyridine-3-carbaldehyde (4.96 g, 18.9 mmol) in 22 mL tert.-butanol was added in this order 2-methyl-2-butene (30 mL of a 2 M solution in THF, 60 mmol), natriumdihydrogen-phosphate (5.7 g, 47.5 mmol), water (15 mL) and sodiumchlorite (3.9 g, 43 mmol). The mixture was stirred at ambient temperature for 1 hour, then poured on dilute aqueous formic acid. The mixture was extracted with ethyl acetate, the organic layer washed with water and brine and concentrated. The residue was dissolved in diisopropylether+dichloromethane (1+1) and extracted 3 times with half-concentrated aqueous NaOH solution. The combined aqueous layers were acidified with conc. HCl and extracted with ethyl acetate. The organic layers were washed with water and brine, then dried over sodium sulfate and concentrated to give 3.462 g of the title compound as a white solid (67%). 1H NMR (500 MHz, CD3OD) δ 7.83 (d, J=5.4 Hz, 1H), 7.43 (d, J=5.4 Hz, 1H), 3.94 (s, 3H);

reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 18.9 mmol, 4.96 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
reactant | natriumdihydrogen-phosphate | 47.5 mmol, 5.7 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodiumchlorite | 43 mmol, 3.9 g | Cl(=O)[O-].[Na+]
solvent | tert.-butanol | 22 mL | C(C)(C)(C)O | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | formic acid | C(=O)O | CH2O2
solvent | water | 15 mL | O | H2O
product | 4-Iodo-2-methoxy-nicotinic acid | 3.462 g, 67% | IC1=CC=NC(=C1C(=O)O)OC | C7H6INO3
